US08633319B2
Intermediate 16: 1,1-Dimethylethyl (3S)-3-{[(7-chloro-1,6-naphthyridin-5-yl)oxy]methyl}-3-fluoro-1-piperidinecarboxylate
To an ice cooled solution of 1,1-dimethylethyl (3S)-3-fluoro-3-(hydroxymethyl)-1-piperidinecarboxylate (1.406 g, 6.03 mmol) in DMF (20 ml) was added sodium hydride (0.313 g, 7.84 mmol) (60% dispersion in mineral oil). This was stirred for 15 min before adding 5,7-dichloro-1,6-naphthyridine (1.2 g, 6.03 mmol). This was warmed to room temp and stirred for 4 h. The reaction had gone to completion and so was cautiously quenched with aqueous ammonium chloride before partitioning between aqueous ammonium chloride and ethyl acetate. The layers were separated and the aqueous was re-extracted with ethyl acetate. The combined organics were washed with brine and concentrated in vacuo to give the crude product. This was dissolved in DCM and purified through silica (50 g), eluting with a gradient of 0-50% ethyl acetate in DCM. Appropriate fractions were concentrated in vacuo to yield the title compound as a cream foamy gum (1.91 g).

reactant | 1,1-dimethylethyl (3S)-3-fluoro-3-(hydroxymethyl)-1-piperidinecarboxylate | 6.03 mmol, 1.406 g | F[C@@]1(CN(CCC1)C(=O)OC(C)(C)C)CO | C11H20FNO3
reactant | sodium hydride | 7.84 mmol, 0.313 g | [H-].[Na+]
reactant | 5,7-dichloro-1,6-naphthyridine | 6.03 mmol, 1.2 g | ClC1=C2C=CC=NC2=CC(=N1)Cl | C8H4Cl2N2
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 1,1-Dimethylethyl (3S)-3-{[(7-chloro-1,6-naphthyridin-5-yl)oxy]methyl}-3-fluoro-1-piperidinecarboxylate | 1.91 g | ClC1=NC(=C2C=CC=NC2=C1)OC[C@]1(CN(CCC1)C(=O)OC(C)(C)C)F | C19H23ClFN3O3
